Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
vaginal bleeding
 
Major Surgical or Invasive Procedure:
exploratory laparoscopy
 
History of Present Illness:
___ yo G1 at approx 17wks w/ confirmed IUP presents to triage 
with vaginal bleeding starting early this morning. Patient woke 
to find underwear and sheets soaked with blood. She also 
endorses crampy abdominal pain localized particularly to the RLQ 
with radiation to the midline and the LLQ. Pain lasts for ten 
minutes at at time, rated ___. Cramping started on ___ 
evening and she has intermittently taken tylenol minimal relief 
of pain. Lying down does relieve pain. No N/V. Last bowel 
movement was this morning. No dysuria or fever.

Denies dizziness, light-headedness, abdominal trauma, or recent 
intercourse (nothing in vagina x 3 weeks).
 
Past Medical History:
PNC: 
- ___ ___ by US (10 days less than dates)
- O+/Ab-/RPRNR/RI/HBsAg-/HIV-
- Hb C trait -> FOB to be tested, still has not
- Ultrasound (___) -> normal, no comment on placenta location
Issues: 
*) bleeding at 9 wks and 11 wks, resolved
*) rubella equivocal, needs vaccination PP

Ob hx: G1
Gyn hx: denies abnl Pap, STDs
PMHx: Hg C trait, anemia. Last HCT 31.7 on ___
PSHx: denies
 
Social History:
PNV, Fe, colace
 
Physical Exam:
(on admission)
VITALS: T 98.9, 98, 110/59, 20, 100% RA
GENERAL: well appearing, appropriate affect
CV: RRR, no M/R/G
LUNGS: CTAB
ABDOMEN: soft and ND, tender to palpation in the RLQ and 
supra-pubic, +voluntary guarding but no rebound 
TAUS/TVUS: +FHR on TAUS, anterior placenta with hypoechoic are 
noted behind placenta.  Placenta well away from cervical os on 
TVUS. Cervical length ~3cm with minimal dilation at internal os

SSE: Small amount of red blood seen at the os mixed with yellow 
discharge. No cervical lesions. No cervical dilation.
SVE: Discomfort with exam, mild CMT initially, absent on repeat 
exam, +adnexal tenderness w/ guarding on right, no tenderness on 
left. no adnexal masses palpated
 
Pertinent Results:
___ WBC-11.1 RBC-3.57 Hgb-10.3 Hct-28.8 MCV-81 Plt-405
___ ___ PTT-30.9 ___ ___ URINE Blood-MOD Nitrite-NEG Protein-NEG Glucose-NEG 
Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-SM 
___ URINE RBC-1 WBC-2 Bacteri-FEW Yeast-NONE Epi-4

URINE CULTURE (Final ___: 
 MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT WITH
 SKINN AND/OR GENITAL CONTAMINATION. 

NEISSERIA GONORRHOEAE, NUCLEIC ACID PROBE, WITH AMPLIFICATION
 (Final ___: Negative for Neisseria Gonorrhoeae by PCR. 

Chlamydia trachomatis, Nucleic Acid Probe, with Amplification
 (Final ___: Negative for Chlamydia trachomatis by PCR.
 
Brief Hospital Course:
___ y/o G1 admitted at 17w3d with vaginal bleeding and abdominal 
pain.
.
*) vaginal bleeding: Ms ___ was hemodynamically stable 
without any active bleeding. CBC and coagulation studies were 
stable. There was no sonographic evidence of an abruption. Her 
placenta was well away from her cervix. There was fluid within 
the cervix, which was likely blood. She continued to have only 
intermittent spotting with wiping during this admission. Fetal 
testing was reassuring on ultrasound. Given her previable 
gestational age, she was monitored with fetal heartrate checks 
during this admission.
.
*) abdominal pain: Ms ___ was afebrile and without any 
evidence of infection. On abdominal exam, she had RLQ and 
suprapubic tenderness with guarding. She was admitted for 
observation and underwent serial exams. Her pain increased 
significantly and her abdominal exam was more concerning with 
rebound and guarding. In addition, ultrasound revealed a large, 
edematous right ovary. Given the concern for intermittent 
torsion, she underwent exploratory laparoscopy. Operative 
findings included normal tubes and ovaries bilaterally, normal 
appearing appendix, and a 17 week size uterus with dilated, 
engorged blood vessels on the right aspect of the fundus. There 
was no evidence of ovarian torsion. Please see operative report 
for details.
.
Postoperatively, she continued to have only minimal vaginal 
spotting with wiping. Her pain was controlled with po Dilaudid 
and she was tolerating a small amount of po's. She was 
discharged home in stable condition on POD#1 and she will have 
close outpatient followup.
 
Medications on Admission:
PNV, Fe, colace
 
Discharge Medications:
1. HYDROmorphone (Dilaudid) 2 mg PO Q3H:PRN pain 
RX *hydromorphone 2 mg 1 tablet(s) by mouth every 6 hours Disp 
#*20 Tablet Refills:*0
2. Prenatal Vitamins 1 TAB PO DAILY
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
pregnancy at 17 weeks
abdominal pain
vaginal bleeding
 
Discharge Condition:
stable
 
Discharge Instructions:
You were admitted to the hospital for further evaluation of 
vaginal bleeding and abdominal pain. You underwent surgery 
(exploratory laparoscopy) which 
 
Followup Instructions:
___